US07632861B2
2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanol.
1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1-vinylisochroman (125 mg, 0.300 mmol) was dissolved in 9-BBN (0.5 M in tetrahydrofuran, 2.4 mL, 1.2 mmol) and stirred overnight at room temperature. The reaction was cooled to 0° C. and treated with 4 M sodium hydroxide (1 mL) and then 30% hydrogen peroxide (1 mL) dropwise. The reaction was stirred at 0° C. for 1 h and then quenched by addition of saturated ammonium chloride. The mixture was extracted with diethyl ether (2×) which was washed with brine, dried over magnesium sulfate, and purified by column chromatography (25%-->37% EtOAc/Hex) to give 125 mg (96%) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.77 (s, 1H), 7.70 (s, 2H), 7.05-7.25 (m, 4H), 4.67 (qAB, JAB=13.1 Hz, 2H), 4.03 (dd, J=7.3, 3.7 Hz, 2H), 3.78 (qAB, JAB=10.4 Hz, 2H), 3.61 (m, 2H), 2.99 (m, 1H), 2.72 (ddd, J=16.2, 3.4, 3.4 Hz, 1H), 2.62 (bs, 1H), 2.36 (m, 1H), 2.12 (ddd, J=15.0, 5.5, 4.6 Hz, 1H); 13C-NMR (CDCl3, 126 MHz) δ 141.1, 136.9, 134.8, 131.8 (q, J=33.6 Hz), 129.2, 127.3, 127.1, 126.6, 125.6, 123.4 (q, J=273 Hz), 121.6, 79.9, 76.4, 72.1, 60.7, 59.3, 39.9, 29.5. Mass spec.: 435.29 (MH)+.

reactant | 1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1-vinylisochroman | 0.300 mmol, 125 mg | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)C=C)C=C(C1)C(F)(F)F)(F)F | C21H18F6O2
reactant | 9-BBN | 1.2 mmol, 0.5 M, 2.4 mL | B1C2CCCC1CCC2 | C8H15B
reactant | sodium hydroxide | 4 M, 1 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 1 mL | OO | H2O2
product | 2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)isochroman-1-yl)ethanol | FC(C=1C=C(COCC2(OCCC3=CC=CC=C23)CCO)C=C(C1)C(F)(F)F)(F)F | C21H20F6O3
